US07019104B1
35.3 g (0.212 mol) of cinnamic acid chloride and 100 mL of methyl ethyl ketone were placed in a reaction vessel and stirred under a nitrogen atmosphere. 28.2 g (0.225 mol) of 2-bromoethanol and 21 g of pyridine were dissolved in 100 mL of methyl ethyl ketone and added dropwise in the aforementioned reaction vessel. After completion of dropping, the solution was refluxed with stirring for 2 hours and cooled. Pyridine hydrochloride was precipitated, and then separated from the solution by filtration. The filtrate was concentrated and then dissolved in methylene chloride. The solution of methylene chloride was poured into a separating funnel and washed with water. Then the solution was dried with anhydrous sodium sulfate and concentrated. Thus 47 g of 2-bromoethyl cinnamate was obtained.

reactant | cinnamic acid chloride | 0.212 mol, 35.3 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | 2-bromoethanol | 0.225 mol, 28.2 g | BrCCO | C2H5BrO
reactant | pyridine | 21 g | N1=CC=CC=C1 | C5H5N
solvent | methyl ethyl ketone | 100 mL | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 100 mL | C(C)C(=O)C | C4H8O
product | 2-bromoethyl cinnamate | 47 g | C(C=CC1=CC=CC=C1)(=O)OCCBr | C11H11BrO2
